US05495036
Preparation of (N-t-butylamino)(dimethyl)(diphenylmethyl)silane
To a solution of 4.1 g (24.7 mmol) of ClSiMe2NHCMe3 in 80 mL of THF were added 3.735 g (18.1 mmol) of solid diphenylmethyl potassium. The orange color of the diphenylmethyl potassium disappeared instantly and precipitate formed rapidly. The reaction mixture was stirred for several days. The solvent was removed under reduced pressure and the residue was extracted with hexane and the solvent was removed under reduced pressure. The yellow liquid product was subjected to vacuum pumping to remove the excess ClSiMe2NHCMe3. The yield was 4.786 g, 88.9 percent.

reactant | ClSiMe2NHCMe3 | 24.7 mmol, 4.1 g | Cl[Si](C)(C)NC(C)(C)C | C6H16ClNSi
reactant | diphenylmethyl potassium | C1(=CC=CC=C1)C(C1=CC=CC=C1)[K]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (N-t-butylamino)(dimethyl)(diphenylmethyl)silane | C(C)(C)(C)N[Si](C(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C19H27NSi
